US04129414
85 g. of 2,4-dichloro-3-nitrophenol was reduced in 900 ml. of ethanol with 9 g. of Raney nickel as a catalyst at 40° C. and 20 excess atmosphere hydrogen pressure. After the reduction, the solution was liberated of the catalyst, acidified with hydrochloric acid, and prepared in the usual manner. 62 g. of 2,4-dichloro-3-aminophenol hydrochloride (equivalent to 70.4% of theory) was obtained in the form of white crystals with a decomposition point of 177°-183° C. The mass spectrum showed 178 mols (calc. 178). Analysis yielded the following values:

reactant | 2,4-dichloro-3-nitrophenol | ClC1=C(C=CC(=C1[N+](=O)[O-])Cl)O | C6H3Cl2NO3
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 2,4-dichloro-3-aminophenol hydrochloride | 70.4% | Cl.ClC1=C(C=CC(=C1N)Cl)O | InChI=1S/C6H5Cl2NO.ClH/c7-3-1-2-4(10)5(8)6(3)9;/h1-2,10H,9H2;1H
